US08314097B2
To a solution of 3-Amino-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile (0.090 g, 0.420 mmol), given as example 6B, and DMF (5 mL) is added ethylisocyanate (0.040 mL, 0.510 mmol). The solution is heated to 70° C. in a microwave reactor for 1.5 h followed by heating at 70° C. in an oil bath overnight. The solution is then concentrated and the residue purified via flash chromatography (1-10% MeOH/CH2Cl2) to give 1-[5-Cyano-2-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)phenyl]-3-ethylurea. MS (ESI) m/z 296.1 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 1.16 (t, J=7.2 Hz, 3 H), 2.47-2.62 (m, 1 H), 2.82-3.04 (m, 2 H), 3.05-3.17 (m, 1 H), 3.21-3.33 (m, 2 H), 5.63 (app t, J=6.8 Hz, 1 H), 5.80 (br s, 1 H), 6.82 (s, 1 H), 6.91 (d, J=8.1 Hz, 1 H), 7.30 (dd, J=8.1, 1.5 Hz, 1 H), 7.39 (s, 1 H), 7.53 (br s, 1 H), 7.97 (d, J=1.3 Hz, 1 H).

reactant | 3-Amino-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile | 0.420 mmol, 0.090 g | NC=1C=C(C#N)C=CC1C1CCC=2N1C=NC2 | C13H12N4
reactant | ethylisocyanate | 0.510 mmol, 0.040 mL | C(C)N=C=O | C3H5NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[5-Cyano-2-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)phenyl]-3-ethylurea | C(#N)C=1C=CC(=C(C1)NC(=O)NCC)C1CCC=2N1C=NC2 | C16H17N5O
